US07365085B2
e) [4-(3-Hydroxy-phenyl)-piperidin-1-yl]-acetic acid hydrobromide
A mixture of [4-(3-methoxy-phenyl)-piperidin-1-yl]-acetic acid methyl ester and HBr (48%, 2 mL) was refluxed for 1 h. The reaction mixture was concentrated in vacuo, azeotroped with toluene twice and washed with ether to give white solid (1.2 g, quantitative yield). MS(ESI) 236.0 (M+H+)

reactant | [4-(3-methoxy-phenyl)-piperidin-1-yl]-acetic acid methyl ester | COC(CN1CCC(CC1)C1=CC(=CC=C1)OC)=O | C15H21NO3
reactant | HBr | 2 mL | Br | BrH
product | [4-(3-Hydroxy-phenyl)-piperidin-1-yl]-acetic acid hydrobromide | 1.2 g, quantitative yield | Br.OC=1C=C(C=CC1)C1CCN(CC1)CC(=O)O | InChI=1S/C13H17NO3.BrH/c15-12-3-1-2-11(8-12)10-4-6-14(7-5-10)9-13(16)17;/h1-3,8,10,15H,4-7,9H2,(H,16,17);1H
